* gnetlist -g spice-sdb ffd.sch.cir ffd.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from model/3i_nand.sch.cir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT 3nand1 5 4 6 3 7 
*vvvvvvvv  Included SPICE model from ../model/nmos4.model vvvvvvvv
.model nmos4 NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from ../model/nmos4.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ../model/pmos4.model vvvvvvvv
.model pmos4 PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from ../model/pmos4.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
M6 2 7 0 0 nmos4  l=3u w=1u
M3 4 7 5 4 pmos4  l=1u w=10u
M5 1 3 2 0 nmos4  l=3u w=1u
M4 5 6 1 0 nmos4  l=3u w=1u
M2 5 6 4 4 pmos4  l=1u w=10u
M1 5 3 4 4 pmos4  l=1u w=10u
.ends 3nand1
*******************************
*^^^^^^^^  End of included SPICE model from model/3i_nand.sch.cir ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
V1 3 0 DC 5V
X1 2 3 1 1 1 3nand1
C1 2 0 47pF  
V2 1 0 pulse 0 5 10n 100n 100n 5u 10u
.end
